US08865726B2
To a stirred solution of (1R,2S)-2-(tert-butoxycarbonylamino)cyclohexyl 4-nitrobenzoate (1.95 g, 5.35 mmol) in THF (50 mL) was added a solution of 1N LiOH (9.63 mL, 9.63 mmol) at 0° C. The reaction mixture was stirred at ambient temperature for 6 hours and then partitioned between EtOAc and water. The organic layer was washed with brine, dried and concentrated. The residue was purified by column chromatography (EtOAc/hexane, 1:1) to give tert-butyl (1S,2R)-2-hydroxycyclohexylcarbamate (1.15 g, 100%).

reactant | (1R,2S)-2-(tert-butoxycarbonylamino)cyclohexyl 4-nitrobenzoate | 5.35 mmol, 1.95 g | [N+](=O)([O-])C1=CC=C(C(=O)O[C@H]2[C@H](CCCC2)NC(=O)OC(C)(C)C)C=C1 | C18H24N2O6
reactant | LiOH | 9.63 mmol, 1N, 9.63 mL | [Li+].[OH-]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl (1S,2R)-2-hydroxycyclohexylcarbamate | 1.15 g, 100% | O[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H21NO3
